US05576335
To a solution of N-(2-aminobenzyl)-N-geranyl-N',N'-dimethyl-1,4-phenylenediamine (0.54 g) in dichloromethane (10 ml) was added under ice-cooling heptyl isocyanate (0.3 g) and the mixture was stirred overnight while returning slowly to room temperature. After distilling off the solvent, the residue was purified by a silica gel column chromatography (hexane:ethyl acetate=3:1) to give 1-[2-[N-(4-dimethylaminophenyl)-N-geranylaminomethyl]phenyl]-3-heptylurea (0.62 g, 85%) as an oily product.

reactant | N-(2-aminobenzyl)-N-geranyl-N',N'-dimethyl-1,4-phenylenediamine | 0.54 g | NC1=C(CN(C2=CC=C(C=C2)N(C)C)C\C=C(/C)\CCC=C(C)C)C=CC=C1 | C25H35N3
reactant | heptyl isocyanate | 0.3 g | C(CCCCCC)N=C=O | C8H15NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-[2-[N-(4-dimethylaminophenyl)-N-geranylaminomethyl]phenyl]-3-heptylurea | 0.62 g, 85% | CN(C1=CC=C(C=C1)N(C\C=C(/C)\CCC=C(C)C)CC1=C(C=CC=C1)NC(=O)NCCCCCCC)C | C33H50N4O
